US05244597
A solution of nonylmagnesium bromide (8.3 mmol) in 30 ml of diethyl ether was treated at 0° C. with a solution of 1.5 g of trans-4-(4'-cyano-4-biphenylyl)cyclohexyl tetrahydropyranyl ether in 15 ml of tetrahydrofuran. The reaction mixture was heated at slight reflux overnight and then treated with dilute sodium carbonate solution. The organic phase was separated and the aqueous phase was back-extracted three times with 50 ml of diethyl ether each time. The combined organic phases were washed once with dilute sodium carbonate solution and twice with water and then dried over magnesium sulfate, filtered and concentrated. The residue was purified by chromatography on silica gel with toluene/ethyl acetate (vol. 9:1). The trans-4-(4-decanoyl-4-biphenylyl)cyclohexyl tetrahydropyranyl ether (1.8 g) obtained was used in the next step without further purification.

reactant | nonylmagnesium bromide | 8.3 mmol | C(CCCCCCCC)[Mg]Br
reactant | trans-4-(4'-cyano-4-biphenylyl)cyclohexyl tetrahydropyranyl ether | 1.5 g | O1C(CCCC1)O[C@@H]1CC[C@H](CC1)C1=CC=C(C=C1)C1=CC=C(C=C1)C#N | C24H27NO2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | diethyl ether | 30 ml | C(C)OCC | C4H10O
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | trans-4-(4-decanoyl-4-biphenylyl)cyclohexyl tetrahydropyranyl ether | 1.8 g | O1C(CCCC1)O[C@@H]1CC[C@H](CC1)C1(CC=C(C=C1)C1=CC=CC=C1)C(CCCCCCCCC)=O | C33H48O3
